US09023849B2
2-[1-(2-Fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one
35 mg (0.07 mmol) of 2-[1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one were dissolved in 8 ml of absolute DMF, 50 mg of 10% palladium on charcoal were added and hydrogenation was effected under standard hydrogen pressure overnight. The reaction mixture was filtered through Celite and concentrated. The residue was stirred with 1 ml of acetonitrile and filtered with suction, and the solids were dried under high vacuum. 5 mg of the target compound were obtained (purity 92%; 17% of theory).

reactant | 2-[1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 0.07 mmol, 35 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C=3N=C(C2=C(N3)NC(C2(C)C)=O)I)C=CC=C1 | C21H17FIN7O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | 2-[1-(2-Fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 5 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C=3N=CC2=C(N3)NC(C2(C)C)=O)C=CC=C1 | C21H18FN7O
